US04808595
Step B: Preparation of 4-Chloro-6-methylfuro[3,2-c]pyridine
A mixture of 6-methylfuro[3,2-c]pyridin-4(5H)-one (11.9 g, 0.08 mol) and phosphorus oxychloride (15.2 ml, 0.163 mol) was heated, under a nitrogen atmosphere, at 100° C. for 1.5 hours. The cooled blackish liquid was poured onto crushed ice and the solution made basic with sodium hydroxide solution. The precipitated product was extracted into methylene chloride. This solution was dried over anhydrous sodium sulfate, filtered through a pad of charcoal and evaporated. Pure product was collected by filtration after the residue was triturated with hexane to give 12.9 g (96% yield), mp: 64.5°-66° C.

reactant | 6-methylfuro[3,2-c]pyridin-4(5H)-one | 0.08 mol, 11.9 g | CC1=CC2=C(C(N1)=O)C=CO2 | C8H7NO2
reactant | phosphorus oxychloride | 0.163 mol, 15.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-Chloro-6-methylfuro[3,2-c]pyridine | 96% yield | ClC1=NC(=CC2=C1C=CO2)C | C8H6ClNO
